US09062076B2
Piperidine (158 mL, 1.59 mol) was added to a suspension of 3-methoxy-4-propargyloxybenzaldehyde (302 g, 1.59 mol) and 2-[(carboxyacetyl)amino]benzoic acid (322 g, 1.44 mol) in toluene (1.5 L). The reaction flask was fitted with a Dean-Stark apparatus and heated to reflux for 30 min. The reaction was then cooled to rt and the resulting suspension was filtered and washed with toluene. The piperidinium salt was dissolved in MeOH (4 L) and water (1 L) at 50° C. and the solution was acidified with 50% aqueous AcOH. The precipitate was filtered and the crude product was recrystallised from EtOH (35 mL/g), filtered and washed with cooled EtOH to afford (E)-2-[[3-(3-methoxy-4-propargyloxyphenyl)-1-oxo-2-propenyl]amino]benzoic acid (309 g, 61%) as a yellow crystalline solid; mp 201-203° C.; δH (400 MHz, DMSO-d6) 3.59 (t, J=2.4 Hz, 1H, C≡CH), 3.84 (s, 3H, OCH3), 4.84 (d, J=2.4 Hz, 2H, OCH2), 6.81 (d, J=15.6 Hz, 1H, CH═CHCO), 7.05 (d, J5,6=8.4 Hz, 1H, H5′), 7.16 (t, J3,4=J4,5=8.0 Hz, 1H, H4), 7.25 (d, J5′,6′=8.4 Hz, 1H, H6′), 7.41 (s, 1H, H2′), 7.56 (d, J=15.6 Hz, 1H, CH═CHCO), 7.61 (t, J4,5=J5,6=8.0 Hz, 1H, H5), 8.00 (d, J3,4=8.0 Hz, 1H, H3), 8.62 (d, J5,6=8.0 Hz, 1H, H6), 11.31 (s, 1H, NH), 13.57 (br s, 1H, CO2H); δC (100 MHz, DMSO-d6) 55.6, 55.9, 78.6, 79.1, 110.8, 113.5, 116.6, 120.4, 120.4, 122.2, 122.7, 128.2, 131.2, 134.0, 141.0, 141.5, 148.3, 149.3, 164.1, 169.5; HRMS (ESI) calculated for C20H17NO5 [M+H]+ 352.1179, found 352.1187; νmax 755, 1010, 1140, 1253, 1502, 1582, 1657, 3278, 3522 cm−1.

reactant | Piperidine | 1.59 mol, 158 mL | N1CCCCC1 | C5H11N
reactant | 3-methoxy-4-propargyloxybenzaldehyde | 1.59 mol, 302 g | COC=1C=C(C=O)C=CC1OCC#C | C11H10O3
reactant | 2-[(carboxyacetyl)amino]benzoic acid | 1.44 mol, 322 g | C(=O)(O)CC(=O)NC1=C(C(=O)O)C=CC=C1 | C10H9NO5
solvent | toluene | 1.5 L | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[[3-(3-methoxy-4-propargyloxyphenyl)-1-oxo-2-propenyl]amino]benzoic acid | 309 g, 61% | COC=1C=C(C=CC1OCC#C)/C=C/C(=O)NC1=C(C(=O)O)C=CC=C1 | C20H17NO5
